US09446130B2
To a solution of compound 3-(cyclopropanecarbonyl)-4-oxocyclohexanecarboxylic acid (36.0 g, 0.15 mol) in EtOH (95%, 300 mL) was added hydrazine hydrate (23.0 g, 0.39 mol) at 0° C. The reaction mixture was stirred 18 h at rt. The solvent was concentrated in vacuum to give methyl 3-cyclopropyl-4,5,6,7-tetrahydro-1H-indazole-5-carboxylate (35.0 g). The compound was used in the next reaction without further purification.

reactant | 3-(cyclopropanecarbonyl)-4-oxocyclohexanecarboxylic acid | 0.15 mol, 36.0 g | C1(CC1)C(=O)C1CC(CCC1=O)C(=O)O | C11H14O4
reactant | hydrazine hydrate | 0.39 mol, 23.0 g | O.NN
reactant | EtOH | 300 mL | CCO | C2H6O
product | methyl 3-cyclopropyl-4,5,6,7-tetrahydro-1H-indazole-5-carboxylate | 35.0 g | C1(CC1)C1=NNC=2CCC(CC12)C(=O)OC | C12H16N2O2
